US07501411B2
Step 4: (4-(8-(4-Morpholinophenylamino)-[1,2,4]triazolo[1,5-a]pyrazin-5-yl)-1H-pyrazol-5-yl)methanol
A solution of {5-[3-(tert-butyl-dimethyl-silanyloxymethyl)-1-(tetrahydro-pyran-3-yl)-1H-pyrazol-4-yl]-[1,2,4]triazolo[1,5-a]pyrazin-8-yl}-(4-morpholin-4-yl-phenyl)-amine and {5-[5-(tert-butyl-dimethyl-silanyloxymethyl)-1-(tetrahydro-pyran-3-yl)-1H-pyrazol-4-yl]-[1,2,4]triazolo[1,5-a]pyrazin-8-yl}-(4-morpholin-4-yl-phenyl)-amine (53.6 mg, 0.077 mmol) and conc. HCl (0.27 mL) in MeOH (5 mL) is stirred at room temperature for 2 hours. After removing the solvent, the residue is partitioned between ethyl acetate and water. The aqueous layer is washed with ethyl acetate (3×) and the combined organic layers are dried over MgSO4, filtered and concentrated. The residue is dissolved in 4M HCl in dioxane, concentrated in vacuo and then partitioned between ethyl acetate and sat. NaHCO3. The organic layer is dried over MgSO4, filtered and concentrated in vacuo to afford a crude compound purified by silica gel column chromatography. The title compound is isolated eluting with EtOAc and a 95:5 mixture DCM:MeOH (5.4 mg, 18%).

reactant | {5-[3-(tert-butyl-dimethyl-silanyloxymethyl)-1-(tetrahydro-pyran-3-yl)-1H-pyrazol-4-yl]-[1,2,4]triazolo[1,5-a]pyrazin-8-yl}-(4-morpholin-4-yl-phenyl)-amine | C(C)(C)(C)[SiH2]OC(C1=NN(C=C1C1=CN=C(C=2N1N=CN2)NC2=CC=C(C=C2)N2CCOCC2)C2COCCC2)(C)C | C30H42N8O3Si
reactant | {5-[5-(tert-butyl-dimethyl-silanyloxymethyl)-1-(tetrahydro-pyran-3-yl)-1H-pyrazol-4-yl]-[1,2,4]triazolo[1,5-a]pyrazin-8-yl}-(4-morpholin-4-yl-phenyl)-amine | 0.077 mmol, 53.6 mg | C(C)(C)(C)[SiH2]OC(C1=C(C=NN1C1COCCC1)C1=CN=C(C=2N1N=CN2)NC2=CC=C(C=C2)N2CCOCC2)(C)C | C30H42N8O3Si
reactant | HCl | 0.27 mL | Cl | ClH
solvent | MeOH | 5 mL | CO | CH4O
product | (4-(8-(4-Morpholinophenylamino)-[1,2,4]triazolo[1,5-a]pyrazin-5-yl)-1H-pyrazol-5-yl)methanol | O1CCN(CC1)C1=CC=C(C=C1)NC=1C=2N(C(=CN1)C=1C=NNC1CO)N=CN2 | C19H20N8O2
